US05498774
Synthesis of α-(3-dimethylaminomethyl-2-phenylimidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-fluorophenyl)acetonitrile (Compound No. 2-79)
To acetonitrile (10 ml) were added 37% formaldehyde (0.3 ml) and acetic acid (0.4 ml), and 50% aqueous solution of dimethylamine (0.3 ml) was added slowly thereto at 0° C. with stirring. To the mixture was added α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-fluorophenyl)acetonitrile (1.0 g, 2.7 m moles), and the mixture was reacted at 50° C. for 2 hours and further stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and the concentrate was neutralized with saturated aqueous solution of NaHCO3. The solution was extracted with dichloromethane, and the extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate was purified by column chromatography on silica gel (eluent: chloroform) to give the object compound (0.47 g, yield 40.8%) as crystals. m.p. 123°-124° C.

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | formaldehyde | 0.3 ml | C=O | CH2O
reactant | dimethylamine | 0.3 ml | CNC | C2H7N
reactant | α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-fluorophenyl)acetonitrile | 1.0 g | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)NC(C#N)C2=CC(=CC=C2)F)C1 | C22H15FN4O
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
product | α-(3-dimethylaminomethyl-2-phenylimidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-fluorophenyl)acetonitrile | 0.47 g, yield 40.8% | CN(C)CC1=C(N=C2N1C=CC=C2C(=O)NC(C#N)C2=CC(=CC=C2)F)C2=CC=CC=C2 | C25H22FN5O
